US08067445B2
Step 1: 1-(2-Bromo-5-trifluoromethyl-benzyl)-1-ethyl-3-methyl-urea
Prepared according to the procedure described in Example 95, Step 1, using the following starting materials: (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine and methyl isocyanate.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 1-(2-Bromo-5-trifluoromethyl-benzyl)-1-ethyl-3-methyl-urea | BrC1=C(CN(C(=O)NC)CC)C=C(C=C1)C(F)(F)F | C12H14BrF3N2O
